US09371319B2
Preparation 107: tert-Butyl 3-methoxy-4-nitrobenzyl(methyl)carbamate
To a stirred solution of 4-(bromomethyl)-2-methoxy-1-nitrobenzene (Preparation 104, 0.2 g, 0.813 mmol) in dry THF (5 ml), was added triethylamine (0.1 g, 1 mmol) followed by a solution of methylamine in THF (0.5 ml of a 2M solution, 1 mmol). After stirring for 1 hour at room temperature, the solvent was removed in vacuum and the crude product dissolved in dichloromethane (5 ml). To the stirred solution was then added di-tert-butyl dicarbonate (0.22 g, 1 mmol). After 1 hour the solvent was removed under reduced pressure and the crude purified on silica gel column chromatography eluting with 20% ethyl acetate in dichloromethane to afford the title compound as a colourless gum (0.185 g, 77%). 1H-NMR (500 MHz, CDCl3) δ 1.48 (s, 9H), 2.83 (s, 3H), 3.93 (s, 3H), 4.45 (s, 2H), 6.85 (d, J=8.1 Hz, 1H), 6.87 (s, br, 1H), 7.81 (d, J=8.2 Hz, 1H).

reactant | 4-(bromomethyl)-2-methoxy-1-nitrobenzene | 0.813 mmol, 0.2 g | BrCC1=CC(=C(C=C1)[N+](=O)[O-])OC | C8H8BrNO3
reactant | triethylamine | 1 mmol, 0.1 g | C(C)N(CC)CC | C6H15N
reactant | methylamine | CN | CH5N
reactant | di-tert-butyl dicarbonate | 1 mmol, 0.22 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | tert-Butyl 3-methoxy-4-nitrobenzyl(methyl)carbamate | 0.185 g, 77% | COC=1C=C(CN(C(OC(C)(C)C)=O)C)C=CC1[N+](=O)[O-] | C14H20N2O5
